* C:\Users\maxwe\Documents\HWE_FUC\LTSPICE\Maximilian_Wein.asc
R1 Uc Ue 1000 tol=1 pwr=0.1
V1 Ue 0 PWL REPEAT FOR 4 (0 0 95m 0 95.01m 5 190m 5 190.01m -5) ENDREPEAT
C1 Uc 0 0.000019
.tran 1000m
.backanno
.end
